US08461179B1
A mixture of 1-(4-chloro-2-fluoro-5-(1-isopropyl-7-((4-methoxybenzyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)phenyl)-3-(3-fluorophenyl)urea (0.094 g, 0.156 mmol) and anisole (0.085 mL, 0.778 mmol) was stirred in TFA (1 mL) at RT for 3 h. The mixture was concentrated to dryness, treated with EtOAc and satd. NaHCO3 and stirred for 1 h. The resulting solid was collected via filtration and dried to afford 1-(5-(7-amino-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-4-chloro-2-fluorophenyl)-3-(3-fluorophenyl)urea (70 mg, 93% yield). MS (ESI) m/z: 484.1 [M+H]+.

reactant | 1-(4-chloro-2-fluoro-5-(1-isopropyl-7-((4-methoxybenzyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)phenyl)-3-(3-fluorophenyl)urea | 0.156 mmol, 0.094 g | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NCC1=CC=C(C=C1)OC)C(C)C)=O)NC(=O)NC1=CC(=CC=C1)F)F | C32H28ClF2N5O3
reactant | anisole | 0.778 mmol, 0.085 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(5-(7-amino-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-4-chloro-2-fluorophenyl)-3-(3-fluorophenyl)urea | 70 mg, 93% yield | NC1=NC=C2C=C(C(N(C2=C1)C(C)C)=O)C=1C(=CC(=C(C1)NC(=O)NC1=CC(=CC=C1)F)F)Cl | C24H20ClF2N5O2
